US03989707
A mixture of 26 parts of ethyl 4-[1,3-dihydro-2-oxo-5-(trifluoromethyl)-2H-benzimidazol-1-yl]-1-piperidinecarboxylate, 30 parts of potassium hydroxide, 176 parts of 2-propanol and 4 parts of water is stirred and refluxed for 20 hours. The reaction mixture is evaporated. The residue is dissolved in water, acidified with a concentrated hydrochloric acid solution, while cooling, and alkalized with a concentrated ammonium hydroxide solution. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and 2-propanol. The product is filtered off and dried, yielding 1,3-dihydro-1-(4-piperidinyl)-5-(trifluoromethyl)-2H-benzimidazol-2-one; mp. 198° C.

reactant | ethyl 4-[1,3-dihydro-2-oxo-5-(trifluoromethyl)-2H-benzimidazol-1-yl]-1-piperidinecarboxylate | O=C1NC2=C(N1C1CCN(CC1)C(=O)OCC)C=CC(=C2)C(F)(F)F | C16H18F3N3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-propanol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 1,3-dihydro-1-(4-piperidinyl)-5-(trifluoromethyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O | C13H14F3N3O
